US07820704B2
4-(4-Isopropyl-phenyl)-thiazol-2-ylamine, chlorosulfonyl-acetic acid tert-butyl ester, DMAP (10 mol %) were combined using general procedure C (method 2) to afford [4-(4-Isopropyl-phenyl)-thiazol-2-ylsulfamoyl]-acetic acid tert-butyl ester. LCMS m/z: 398 (M+1)+; 1H NMR (CDCl3, 400 MHz): δ 1.27 (d, 6H); 1.44 (s, 9H); 2.95 (m, 1H); 4.06 (s, 2H); 6.48 (s, 1H); 7.32 (d, 2H); 7.39 (d, 2H); 10.5 (brs, 1H).

reactant | 4-(4-Isopropyl-phenyl)-thiazol-2-ylamine | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)N | C12H14N2S
reactant | chlorosulfonyl-acetic acid tert-butyl ester | C(C)(C)(C)OC(CS(=O)(=O)Cl)=O | C6H11ClO4S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | [4-(4-Isopropyl-phenyl)-thiazol-2-ylsulfamoyl]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CS(NC=1SC=C(N1)C1=CC=C(C=C1)C(C)C)(=O)=O)=O | C18H24N2O4S2
